US07906508B2
Production of methyl 3-nitrosalicylate
3-Nitrosalicylic acid (500 g) was dissolved in methanol (2.25 L), concentrated sulfuric acid (0.25 L) was added, and the mixture was refluxed for 22 hours. The reaction solution was cooled on ice, and the precipitated solid was collected by filtration and dried to obtain the title compound (517.3 g).

reactant | 3-Nitrosalicylic acid | 500 g | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)O | C7H5NO5
reactant | sulfuric acid | 0.25 L | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 2.25 L | CO | CH4O
product | methyl 3-nitrosalicylate | 517.3 g | [N+](=O)([O-])C1=C(C(C(=O)OC)=CC=C1)O | C8H7NO5
